US06353108B1
A more particular subject of the invention is a process characterized in that 1-(3-pyridinyl)-ethanone O-[(4-methylphenyl) sulphonyl] oxime is subjected to the action of methanol and sodium methylate in order to obtain 3-(2H-azirin-3-yl)-pyridine which is subjected to the action of oxalic acid in order to obtain β,β-dimethoxy-2-(3-pyridinyl)ethyl)-amine which is subjected to the action of formamide in order to obtain N-[β,β-dimethoxy-2-(3-pyridinyl)ethyl]-formamide which is subjected to a cyclization in order to obtain the sought product.

reactant | 1-(3-pyridinyl)-ethanone O-[(4-methylphenyl) sulphonyl] oxime | CC1=CC=C(C=C1)S(=O)(=O)ON=C(C)C=1C=NC=CC1 | C14H14N2O3S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(2H-azirin-3-yl)-pyridine | N=1CC1C=1C=NC=CC1 | C7H6N2
